US04689339
2-Bromo-1-(2,3-dihydro-2-ethyl-1-methyl-1H-inden-2-yl)ethanone is prepared from 1-(2,3-dihydro-2-ethyl-1-methyl-1H-inden-2-yl)ethanone (21.6 g) by treatment with bromine (17.6 g) in methylene chloride (300 ml). Yield 65%.

reactant | 1-(2,3-dihydro-2-ethyl-1-methyl-1H-inden-2-yl)ethanone | 21.6 g | C(C)C1(C(C2=CC=CC=C2C1)C)C(C)=O | C14H18O
reactant | bromine | 17.6 g | BrBr | Br2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-(2,3-dihydro-2-ethyl-1-methyl-1H-inden-2-yl)ethanone | Yield 65% | BrCC(=O)C1(C(C2=CC=CC=C2C1)C)CC | C14H17BrO
